US04978653
Synthesis of 2-cyclohexylpropanal dimethylacetal (Compound No. 4)
Into a 200 ml round bottom flask 50 ml of methanol, 30.0 g of 2-cyclohexylpropanal, 36.1 g of methyl orthoformate, and 0.5 g of ammoniumchloride were charged and the mixture was stirred at room temperature for 12 hours. After washing the resulting reaction mixture with water, the residue was distilled to prepare 37.5 g of Compound No. 4 (purity: 99.3%, boiling point: 83° C./5 mmHg). The compound was a colorless, transparent liquid having a floral and fruity odor.

reactant | 2-cyclohexylpropanal | 30.0 g | C1(CCCCC1)C(C=O)C | C9H16O
reactant | methyl orthoformate | 36.1 g | C(OC)([O-])[O-]
reactant | ammoniumchloride | 0.5 g | [Cl-].[NH4+]
reactant | methanol | 50 ml | CO | CH4O
product | 2-cyclohexylpropanal dimethylacetal | COC(C(C)C1CCCCC1)OC | C11H22O2
